US04704459
In 5 ml of ethanol was suspended 150 mg of 3-aminopyrrolidine dihydrochloride, and 310 mg of triethylamine was added thereto to form a solution. Subsequently, 500 mg of ethyl 1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-7-(2,4,6-triisopropylbenzenesulfonyloxy)-1,8-naphthyridine-3-carboxylate was added thereto, and the resulting mixture was subjected to reaction at room temperature for 2 hours. Subsequently, 6 ml of water was added to the reaction mixture, and the crystals thus deposited were collected by filtration, and washed with 5 ml of water to obtain 330 mg (yield 96.3%) of ethyl 7-(3-amino-1-pyrrolidinyl)-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate having a melting point of 200°-202° C.

reactant | 3-aminopyrrolidine dihydrochloride | 150 mg | Cl.Cl.NC1CNCC1
reactant | triethylamine | 310 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl 1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-7-(2,4,6-triisopropylbenzenesulfonyloxy)-1,8-naphthyridine-3-carboxylate | 500 mg | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(N=C12)OS(=O)(=O)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)F)=O)C(=O)OCC | C32H33F3N2O6S
reactant | water | 6 ml | O | H2O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | ethyl 7-(3-amino-1-pyrrolidinyl)-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate | 330 mg, yield 96.3% | NC1CN(CC1)C1=C(C=C2C(C(=CN(C2=N1)C1=C(C=C(C=C1)F)F)C(=O)OCC)=O)F | C21H19F3N4O3
